US07767674B2
4-(3-Amino-phenoxy)-piperidin-1-yl Carboxylic Acid Benzyl Ester
4-(3-tert-Butoxycarbonylamino-phenoxy)-piperidine-1-carboxylic acid benzyl ester (11.8 g, 27.6 mmol) is dissolved in a solution of trifluoroacetic acid in dichloromethane (25% v/v, 20 mL). The reaction mixture is stirred at 22° C. for 60 min. After removal of the solvent, the oily residue is dissolved in dichloromethane (250 mL) and neutralized with 0.2 N aqueous sodium hydroxide solution (250 mL) and extracted with dichloromethane (10×100 mL) followed by ethyl acetate (5×100 mL). The combined organic phases are dried over anhydrous sodium sulfate. After removal of solvent, the crude product is purified on silica gel chromatography with dichloromethane-methanol to give a light brown oil (4.84 g, 54%, ES+(m/z) 327.3 [M+H]).

reactant | 4-(3-tert-Butoxycarbonylamino-phenoxy)-piperidine-1-carboxylic acid benzyl ester | 27.6 mmol, 11.8 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC1=CC(=CC=C1)NC(=O)OC(C)(C)C | C24H30N2O5
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-(3-Amino-phenoxy)-piperidin-1-yl Carboxylic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)OC1=CC(=CC=C1)N | C19H22N2O3
